US07919519B2
Under argon at −78° C., a mixture of thiazole (1.13 g, 13.2 mmol) in THF (50 mL) was dropwise treated with 2.5M n-BuLi (1.05 equiv., 5.04 mL, in hexanes) over a period of 10 min and stirred for 45 min. The resulting yellow mixture was treated dropwise with a solution of benzofuran-5-carbaldehyde (1.76 g, 12.0 mmol) in THF (10 mL). Cooling was removed after addition. When the mixture reached room temperature, it was treated with EtOAc, washed with 1M aqueous HCl and brine, dried over MgSO4, and evaporated, to give benzofuran-5-yl(thiazol-2-yl)methanol as a yellow oil. 1H NMR (400 MHz, CDCl3) δ ppm 7.71-7.75 (m, 2H), 7.64 (d, J=2.2 Hz, 1H), 7.50 (d, J=8.6 Hz, 1H), 7.39 (dd, J=8.6, 1.7 Hz, 1H), 7.29 (d, J=3.1 Hz, 1H), 6.76-6.75 (m, 1H), 6.17 (s, 1H).

reactant | thiazole | 13.2 mmol, 1.13 g | S1C=NC=C1 | C3H3NS
reactant | n-BuLi | 2.5M, 5.04 mL, 1.05 equiv. | [Li]CCCC
reactant | benzofuran-5-carbaldehyde | 12.0 mmol, 1.76 g | O1C=CC2=C1C=CC(=C2)C=O | C9H6O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | benzofuran-5-yl(thiazol-2-yl)methanol | O1C=CC2=C1C=CC(=C2)C(O)C=2SC=CN2 | C12H9NO2S
